US07592373B2
4.17.b. 4-(2-diethylaminoethoxy)-3-nitrophenylamine
A solution of 1.85 g (6.26 mmol) of N-[4-(2-diethylaminoethoxy)-3-nitrophenyl]acetamide in semiconcentrated aqueous hydrochloric acid is stirred for 2 hours at 100° C., cooled to ambient temperature, made basic with ice, and concentrated aqueous ammonia and the aqueous phase is exhaustively extracted with ethyl acetate. The combined organic phases are washed with water and dried over sodium sulfate. Yield: 1.38 g (87% of theory); C12H19N3O3 (M=253.30); calc.: molecular ion peak (M+H)+: 254; found: molecular ion peak (M+H)+: 254; Rf value: 0.68 (Alox, dichloromethane/methanol (39:1)).

reactant | N-[4-(2-diethylaminoethoxy)-3-nitrophenyl]acetamide | 6.26 mmol, 1.85 g | C(C)N(CCOC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-])CC | C14H21N3O4
reactant | ammonia | N | H3N
solvent | hydrochloric acid | Cl | ClH
product | 4-(2-diethylaminoethoxy)-3-nitrophenylamine | C(C)N(CCOC1=C(C=C(C=C1)N)[N+](=O)[O-])CC | C12H19N3O3
